US07402585B2
3-Amino-N-(3-fluorophenyl)-1H-pyrazole-5-carboxamide (153 mg, 0.69 mmol) in dimethylacetamide (1.8 ml) and HCl in dioxane (4 M solution in dioxane, 174 μl, 0.69 mmol) was reacted with 4-chloro-7-(3-chloropropoxy)-6-methoxyquinazoline (200 mg, 0.69 mmol) at 90° C. for 1.5 hour. Dichloromethane (35 ml) was added to the cooled reaction mixture, and the solid recovered by filtration, washed with dichloromethane and dried to yield 3-{[7-(3-chloropropoxy)-6-methoxyquinazolin-4-yl]amino}-N-(3-fluorophenyl)-1H-pyrazole-5-carboxamide (286 mg, 81% yield):

reactant | 3-Amino-N-(3-fluorophenyl)-1H-pyrazole-5-carboxamide | 0.69 mmol, 153 mg | NC1=NNC(=C1)C(=O)NC1=CC(=CC=C1)F | C10H9FN4O
reactant | dioxane | 0.69 mmol, 4 M, 174 μl | O1CCOCC1 | C4H8O2
reactant | 4-chloro-7-(3-chloropropoxy)-6-methoxyquinazoline | 0.69 mmol, 200 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCCl | C12H12Cl2N2O2
reactant | Dichloromethane | 35 ml | ClCCl | CH2Cl2
solvent | dimethylacetamide | 1.8 ml | CC(=O)N(C)C | C4H9NO
solvent | HCl | Cl | ClH
product | 3-{[7-(3-chloropropoxy)-6-methoxyquinazolin-4-yl]amino}-N-(3-fluorophenyl)-1H-pyrazole-5-carboxamide | 286 mg, 81% yield | ClCCCOC1=C(C=C2C(=NC=NC2=C1)NC1=NNC(=C1)C(=O)NC1=CC(=CC=C1)F)OC | C22H20ClFN6O3
